US05670503
A mixture of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (74 mg) and N,N'-disuccinimidylcarbonate (77 mg) in dry N,N-dimethylformamide (2 ml) was stirred at ambient temperature for 1 hour. To the mixture was added diethylamine (0.13 ml) and the mixture was stirred at ambient temperature for 3 hours. The reaction mixture was poured into cold water and the separated oil was extracted with ethyl acetate. The extract was washed with brine, dried and concentrated in vacuo. The residue was crystallized from ethyl acetate to give 2-diethylcarbamoyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (80 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 74 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | N,N'-disuccinimidylcarbonate | 77 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | diethylamine | 0.13 ml | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-diethylcarbamoyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 80 mg | C(C)N(C(=O)N1NC=2N(CC1)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F)CC | C21H23FN6O
